US04898977
5(S)-azido-6-cyclohexyl-2(S)-isopropyl-4(S)-hexanolide
42.5 g (0.135 mol) of 5(R)-bromo-6-cyclohexyl-2(S)-isopropyl-4(S)-hexanolide and 35 g (0.54 mol) of NaN3 in 480 ml of N,N'-dimethyl-N,N'-propylene urea (DMPU) are stirred at room temperature for 72 hours and then poured onto 1 liter of ice-cold 0.1N HCl. The mixture is then extracted three times with ether, and the combined organic phases are washed twice with 0.1N HCl and three times with brine and dried with MgSO4. After concentrating the solvent by evaporation, the residue is recrystallised from hexane: m.p. 38.5°-39°.

reactant | 5(R)-bromo-6-cyclohexyl-2(S)-isopropyl-4(S)-hexanolide | 0.135 mol, 42.5 g | Br[C@@H]([C@@H]1C[C@H](C(=O)O1)C(C)C)CC1CCCCC1 | C15H25BrO2
reactant | NaN3 | 0.54 mol, 35 g | [N-]=[N+]=[N-].[Na+]
product | 5(S)-azido-6-cyclohexyl-2(S)-isopropyl-4(S)-hexanolide | N(=[N+]=[N-])[C@H]([C@@H]1C[C@H](C(=O)O1)C(C)C)CC1CCCCC1 | C15H25N3O2
